* C:\Users\HJH\Desktop\simulator\based_on_python\OPAMP3\simfile\opamp.asc
M14 N010 N010 0 0 smic18n33 l=l_m14 w=w_m14
M13 N008 N010 0 0 smic18n33 l=l_m13 w=w_m13
M12 N010 N008 N007 N007 smic18p33 l=l_m12 w=w_m12
M10 N007 N005 N004 N004 smic18p33 l=l_m10 w=w_m10
M11 N008 N008 N005 N005 smic18p33 l=l_m11 w=w_m11
M9 N005 N005 VDD VDD smic18p33 l=l_m9 w=w_m9
R0 VDD N004 5.80766k
M4 N009 N010 0 0 smic18n33 l=l_m4 w=w_m4
M0 N001 Vinp N009 0 smic18n33 l=l_m0 w=w_m0
M1 N002 Vinn N009 0 smic18n33 l=l_m1 w=w_m1
M2 N002 N001 VDD VDD smic18p33 l=l_m2 w=w_m2
M3 N001 N001 VDD VDD smic18p33 l=l_m3 w=w_m3
M6 N006 N010 0 0 smic18n33 l=l_m6 w=w_m6
M5 N006 N002 VDD VDD smic18p33 l=l_m5 w=w_m5
V1 Vinp 0 2.2 AC 10u
V2 Vinn 0 2.2 AC -10u
V3 VDD 0 3.3
CL Vout 0 3p
M7 VDD N006 Vout 0 smic18n33 l=l_m7 w=w_m7
M8 Vout N011 0 0 smic18n33 l=l_m8 w=w_m8
M17 N003 N010 0 0 smic18n33 l=l_m17 w=w_m17
M18 N011 N011 0 0 smic18n33 l=l_m18 w=w_m18
M15 N003 N003 VDD VDD smic18p33 l=l_m15 w=w_m15
M16 N011 N003 VDD VDD smic18p33 l=l_m16 w=w_m16
Cc N006 N002 1.3p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\HJH\AppData\Local\LTspice\lib\cmp\standard.mos
* .op
.include C:/Users/HJH/Desktop/simulator/based_on_python/OPAMP3/simfile/model\smic18_mos_model.lib
.backanno
.end
